US06548676B1
2-Benzylsulfanyl-5-hydroxymethyl-thiazole
0.2 ml of concentrated hydrochloric acid is added to 3.0 g of 2-benzylsulfanyl-5-hydroxymethyl-4,5-dihydrothiazol-4-ol in 25 ml of ethanol. The mixture is stirred at 50° C. for 12 hours, the solvent is removed in vacuo, and the residue is chromatographed on silica gel (ether:hexane; 1:1). The title compound is obtained in the form of a yellow oil (compound 3.1).

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 2-benzylsulfanyl-5-hydroxymethyl-4,5-dihydrothiazol-4-ol | 3.0 g | C(C1=CC=CC=C1)SC=1SC(C(N1)O)CO | C11H13NO2S2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-Benzylsulfanyl-5-hydroxymethyl-thiazole | C(C1=CC=CC=C1)SC=1SC(=CN1)CO | C11H11NOS2
